US04666914
9-Benzyl-1,3-dimethyl-6-(hydroxy)pyrimido-[2,1-f]purine-2,4,8(1H,3H,9H)-trione
Add 8-benzylaminotheophylline (30 g.) and ethyl malonyl chloride (35.1 gm) to 600 ml of 1:1 dioxane/acetonitrile. Heat the reaction mixture to reflux under a nitrogen atmosphere until the 8-benzylaminotheophylline is consumed (Ca. 3.5 hrs.). Cool the reaction mixture to room temperature and pour the solution into 800 ml. of ether. Filter the precipitate. Wash the precipitate with ether and dry the product to obtain the title compound, m.p. 205.5°-209° C.

reactant | 8-benzylaminotheophylline | 30 g | C(C1=CC=CC=C1)NC1=NC=2N(C(N(C)C(C2N1)=O)=O)C | C14H15N5O2
reactant | ethyl malonyl chloride | 35.1 gm | C(C)C(C(=O)Cl)C(=O)Cl | C5H6Cl2O2
solvent | dioxane acetonitrile | 600 ml | O1CCOCC1.C(C)#N
product | 9-Benzyl-1,3-dimethyl-6-(hydroxy)pyrimido-[2,1-f]purine-2,4,8(1H,3H,9H)-trione | C(C1=CC=CC=C1)N1C(C=C(N2C1=NC=1N(C(N(C(C21)=O)C)=O)C)O)=O | C17H15N5O4
